Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / Betadine
 
Attending: ___.
 
Chief Complaint:
Hemorrhagic shock 
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy and retroperitoneal hematoma 
evacuation.
___: Reopening of recent laparotomy with exploration of
packed retroperitoneum, right nephrectomy and repacking of the
retroperitoneum.

___: 1: Subtotal abdominal colectomy
2: Cholecystectomy
3: Control of postoperative hemorrhage from nephrectomy site
4: VAC placement 50x25 cm
 
History of Present Illness:
Ms. ___ is a ___, h/o COPD (not on home O2), AAA (being
followed), initially admitted to ___ with ATN and had a renal
biopsy which was complicated by an RP hematoma and hemodynamic
instability. She was transferred to ___ and underwent ___
angioembolization of the right upper renal pole. Post-procedure,
her abdomen became distended, her lactate began to trend upwards
to 16, persistently hypotensive on three pressors, she was
profoundly acidotic, plateau pressures in the high ___ and her
bladder pressure was 20. There was enough concern for potential
abdominal compartment syndrome and surgery was consulted. 

 
Past Medical History:
COPD, AAA, HTN, Graves disease

 
Social History:
___
Family History:
NC
 
Physical Exam:
On ACS consultation:
Vitals: SBPs in ___ (on levo, vaso and neo), intubated 
GEN: intubated and sedated 
HEENT: No scleral icterus
CV: RRR
PULM: intubated
ABD: distended, soft
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 07:47PM BLOOD WBC-15.5* RBC-3.23* Hgb-9.6* Hct-30.0* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-15.9* RDWSD-54.0* Plt Ct-68*
___ 05:15PM BLOOD WBC-14.2* RBC-3.16* Hgb-9.4* Hct-29.3* 
MCV-93 MCH-29.7 MCHC-32.1 RDW-16.2* RDWSD-54.9* Plt Ct-83*
___ 02:01PM BLOOD WBC-10.3* RBC-3.10* Hgb-9.2* Hct-28.6* 
MCV-92 MCH-29.7 MCHC-32.2 RDW-15.8* RDWSD-52.3* Plt Ct-93*
___ 11:25AM BLOOD WBC-8.7 RBC-3.56* Hgb-10.4* Hct-32.8* 
MCV-92 MCH-29.2 MCHC-31.7* RDW-15.4 RDWSD-52.4* Plt Ct-75*
___ 07:14AM BLOOD WBC-8.4 RBC-4.25 Hgb-12.8 Hct-39.8 MCV-94 
MCH-30.1 MCHC-32.2 RDW-15.4 RDWSD-52.7* Plt ___
___ 05:27AM BLOOD WBC-7.5 RBC-4.28 Hgb-12.8 Hct-39.6 MCV-93 
MCH-29.9 MCHC-32.3 RDW-15.2 RDWSD-51.4* Plt Ct-52*
___ 03:25AM BLOOD WBC-7.8 RBC-4.32 Hgb-12.7 Hct-40.0 MCV-93 
MCH-29.4 MCHC-31.8* RDW-15.3 RDWSD-51.5* Plt Ct-58*
___ 01:33AM BLOOD WBC-8.0 RBC-3.74* Hgb-11.1* Hct-34.7 
MCV-93 MCH-29.7 MCHC-32.0 RDW-15.0 RDWSD-49.9* Plt Ct-70*
___ 11:38PM BLOOD WBC-6.5 RBC-3.19* Hgb-9.4* Hct-29.4* 
MCV-92 MCH-29.5 MCHC-32.0 RDW-14.7 RDWSD-49.8* Plt Ct-88*
___ 09:39PM BLOOD WBC-5.7 RBC-3.09* Hgb-8.9* Hct-28.3* 
MCV-92 MCH-28.8 MCHC-31.4* RDW-14.9 RDWSD-49.6* Plt ___
___ 02:50AM BLOOD WBC-15.4* RBC-2.85* Hgb-8.5* Hct-27.7* 
MCV-97 MCH-29.8 MCHC-30.7* RDW-14.2 RDWSD-49.8* Plt Ct-65*
___ 02:01PM BLOOD Plt Ct-93*
___ 11:25AM BLOOD Plt Ct-75*
___ 07:14AM BLOOD ___ PTT-30.8 ___
___ 07:15PM BLOOD Plt Ct-80*
___ 02:46AM BLOOD ___ PTT-43.6* ___
___ 11:25AM BLOOD ___
___ 07:47PM BLOOD Glucose-82 UreaN-21* Creat-1.8*# Na-140 
K-5.1 Cl-100 HCO3-11* AnGap-29*
___ 02:46AM BLOOD Glucose-136* UreaN-90* Creat-9.2* Na-138 
K-5.0 Cl-98 HCO3-7* AnGap-33*
___ 02:01PM BLOOD ALT-2182* AST-3564* AlkPhos-150* 
TotBili-3.0*
___:33AM BLOOD ALT-2189* AST-3663* AlkPhos-105 
TotBili-2.3*
___ 05:00PM BLOOD ALT-2277* AST-1102* AlkPhos-82 
TotBili-1.7*
___ 11:50AM BLOOD ALT-5756* AST-6038* AlkPhos-106* 
TotBili-2.0*
___ 08:51AM BLOOD ALT-4864* AST-4326* AlkPhos-94 
TotBili-2.1*
___ 02:46AM BLOOD ALT-909* AST-647* CK(CPK)-277*
___ 02:46AM BLOOD CK-MB-14* MB Indx-5.1 cTropnT-0.09*
___ 08:11PM BLOOD Type-ART pO2-81* pCO2-39 pH-7.11* 
calTCO2-13* Base XS--16
___ 01:56PM BLOOD Type-ART pO2-77* pCO2-40 pH-7.17* 
calTCO2-15* Base XS--13
___ 11:58AM BLOOD Type-MIX
___ 09:11AM BLOOD Type-ART pO2-70* pCO2-38 pH-7.14* 
calTCO2-14* Base XS--15
___ 05:40AM BLOOD Type-ART pO2-70* pCO2-41 pH-7.12* 
calTCO2-14* Base XS--15
___ 01:44AM BLOOD Type-ART pO2-86 pCO2-39 pH-7.14* 
calTCO2-14* Base XS--15
___ 07:24PM BLOOD Type-ART pO2-58* pCO2-41 pH-7.17* 
calTCO2-16* Base XS--13
___ 02:09PM BLOOD Type-ART pO2-97 pCO2-42 pH-7.11* 
calTCO2-14* Base XS--16
___:09PM BLOOD Type-ART pO2-97 pCO2-42 pH-7.11* 
calTCO2-14* Base XS--16
___ 05:02AM BLOOD Type-ART pO2-89 pCO2-36 pH-7.10* 
calTCO2-12* Base XS--17
___ 03:03AM BLOOD ___ Temp-36.1 pO2-101 pCO2-52* 
pH-6.91* calTCO2-11* Base XS--23
 
Brief Hospital Course:
Ms. ___ is a ___, h/o COPD (not on home O2), AAA (being 
followed), initially admitted to ___ with ATN and had a renal 
biopsy which was complicated by an RP hematoma and hemodynamic 
instability. She was transferred to ___ and underwent ___
angioembolization of the right upper renal pole. Post-procedure, 
her abdomen became distended, her lactate began to trend upwards 
to 16, persistently hypotensive on three pressors, she was 
profoundly acidotic, plateau pressures in the high ___ and her 
bladder pressure was 20. There was enough concern for potential 
abdominal compartment syndrome and surgery was consulted. On 
___ patient underwent exploratory laparotomy, exploration 
and evacuation of retroperitoneal hematoma and placement of VAC. 
Post operatively patient requiring massive transfussion 
protocol, and requiring pressor. Patient was running on CRRT 
during hospitalization as well. On ___ patient was retaken 
to the OR for further exploration of source of bleeding. Patient 
underwent ___ procedure - exploratory laparotomy, right 
nephrectomy, packing of retroperitoneum, VAC placement. Post 
operatively during the night patient continued to bleed, 
continued to required massive transfussion protocol and pressors 
in order to maintain good circulatory pressure. In the morning 
of ___ patient was then to the OR for the last time after 
extensive discussion with the family reguarding goals of care 
and it was decided that this will be the last try to locate and 
stop the souce of bleeding. Patient underwent reopening recent 
laparotomy for retroperitoneal hemorrhage, subtotal colectomy, 
cholecystectomy, explore right renal bed for hemorrhage, pack 
abdomen Abthera VAC 50x30 cm. Post operativelly patient 
conitnued to with hight abthera output up to 2L per hour and 
continued pressor and transfusions. Again discussion with the 
familly continued and during the night per family patient was 
made CMO and expired shortly afterward.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. HydrALAZINE 50 mg PO QID 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Diazepam 5 mg PO Q6H:PRN Spasm 

 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Hemorrhagic shock 
 
Discharge Condition:
Expired
 
Discharge Instructions:
none
 
Followup Instructions:
___